US07566699B2
3-Ethynyl-4-methoxybenzo[b]thiophene (0.15 g) was dissolved in triethylamine (10 mL). To the solution were added 4-bromotoluene (0.11 mL), tetrakis(triphenylphosphine)palladium (0) (92 mg) and copper (I) iodide (30 mg), and the mixture was heated for ref lux under an argon atmosphere for 10 hours. The reaction mixture was diluted with diethyl ether, and the insoluble material was removed by filtration. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane-n-hexane/ethyl acetate=50/1) to give 4-methoxy-3-[2-(4-methylphenyl)ethynyl]benzo[b]thiophene (27 mg). This material was dissolved in ethanol (1.5 mL). To the solution was added 10% palladium-carbon powder (10 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere overnight. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure to give 4-methoxy-3-[2-(4-methylphenyl)ethyl]-benzo[b]thiophene (27 mg). This material was dissolved in dichloromethane (1.5 mL). To the solution was added boron tribromide (0.011 mL) at −78° C., and the mixture was stirred at the same temperature for 1 hour. Then the mixture was stirred under ice-cooling for 1 hour. The reaction mixture poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium hydrogen carbonate solution and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=15/1) to give the title compound (10 mg).

reactant | 3-Ethynyl-4-methoxybenzo[b]thiophene | 0.15 g | C(#C)C=1C2=C(SC1)C=CC=C2OC | C11H8OS
reactant | 4-bromotoluene | 0.11 mL | BrC1=CC=C(C=C1)C | C7H7Br
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium | 92 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 30 mg | [Cu]I
product | 4-methoxy-3-[2-(4-methylphenyl)ethynyl]benzo[b]thiophene | 27 mg | COC1=CC=CC=2SC=C(C21)C#CC2=CC=C(C=C2)C | C18H14OS
